US06184225B2
A mixture of 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline (76 mg, 0.28 mmol) and 2-fluoro-5-hydroxy-4-methylaniline (40 mg, 0.28 mmol), (prepared as described for the starting material in Example 8), in isopropanol (2.5 ml) was stirred and heated at reflux for 7 hours. The reaction mixture was allowed to cool and the precipitated product collected by filtration, washed with isopropanol and dried to give 4-(2-fluoro-5-hydroxy4-methylanilino)-6-methoxy-7-(2-methoxyethoxy)quinazoline hydrochloride (79 mg 66%) as a white solid.

reactant | 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline | 0.28 mmol, 76 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCOC | C12H13ClN2O3
reactant | 2-fluoro-5-hydroxy-4-methylaniline | 0.28 mmol, 40 mg | FC1=C(N)C=C(C(=C1)C)O | C7H8FNO
solvent | isopropanol | 2.5 ml | C(C)(C)O | C3H8O
product | 4-(2-fluoro-5-hydroxy4-methylanilino)-6-methoxy-7-(2-methoxyethoxy)quinazoline hydrochloride | 79 mg, 66% | Cl.FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCOC)C=C(C(=C1)C)O | InChI=1S/C19H20FN3O4.ClH/c1-11-6-13(20)15(8-16(11)24)23-19-12-7-17(26-3)18(27-5-4-25-2)9-14(12)21-10-22-19;/h6-10,24H,4-5H2,1-3H3,(H,21,22,23);1H
